US08445674B2
B) 4-[(S)-4-(3,4-Bis-trifluoromethyl-phenyl)-3-methyl-2-oxo-piperazin-1-yl]-butyric acid tert-butyl ester
A mixture of 0.20 g (0.78 mmol) of 4-((S)-3-Methyl-2-oxo-piperazin-1-yl)-butyric acid tert-butyl ester, 0.1 eq. of HCl, 0.53 g (1.56 mmol) of 4-iodo-1,2-bis-trifluoromethyl-benzene (WO2007034282), 0.04 g (0.078 mmol) bis(tri-tert-butylphosphine)palladium(0) and 0.33 g (1.56 mmol) tripotassium phosphate in 2 ml of 1,2-dimethoxyethane was degased and heated at 120° C. for 2 h under microwave irradiation, diluted with dichloromethane, filtered and evaporated. Purification on a SiO2-column (1-propanol in n-heptane 2 to 5%), gave the titled compound in 35% yield as light brown oil. MS: 413.13 (M[-C4H8]H+).

reactant | 4-((S)-3-Methyl-2-oxo-piperazin-1-yl)-butyric acid tert-butyl ester | 0.78 mmol, 0.20 g | C(C)(C)(C)OC(CCCN1C([C@@H](NCC1)C)=O)=O | C13H24N2O3
reactant | HCl | 0.1 eq. | Cl | ClH
reactant | 4-iodo-1,2-bis-trifluoromethyl-benzene | 1.56 mmol, 0.53 g | IC1=CC(=C(C=C1)C(F)(F)F)C(F)(F)F | C8H3F6I
reactant | tripotassium phosphate | 1.56 mmol, 0.33 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
catalyst | bis(tri-tert-butylphosphine)palladium(0) | 0.078 mmol, 0.04 g | CC(C)([P](C(C)(C)C)([Pd][P](C(C)(C)C)(C(C)(C)C)C(C)(C)C)C(C)(C)C)C
product | 4-[(S)-4-(3,4-Bis-trifluoromethyl-phenyl)-3-methyl-2-oxo-piperazin-1-yl]-butyric acid tert-butyl ester | 35% yield | C(C)(C)(C)OC(CCCN1C([C@@H](N(CC1)C1=CC(=C(C=C1)C(F)(F)F)C(F)(F)F)C)=O)=O | C21H26F6N2O3
